US08022062B2
To a 4:1 mixture of 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 3-tert-butoxycarbonyl-7,9-dichloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine (200 mg, 0.52 mmol) in methanol (5 mL) under nitrogen, add potassium hydroxide (0.9 g, 16.1 mmol) at ambient temperature. When the mixture becomes homogenous, heat at 55-60° C. for 2-3 h, until TLC shows the disappearance of starting material. Cool to ambient temperature, add aqueous saturated ammonium chloride, extract three times with diethyl ether, dry over anhydrous MgSO4, and concentrate in vacuo. Dissolve the crude 3-tert-butoxycarbonyl-7-chloro-6-mercapto-2,3,4,5-tetrahydro-1H-benzo[d]azepine in anhydrous THF (5 mL) under nitrogen and add with stirring 1.0 M potassium t-butoxide in THF (1.0 mL) at ambient temperature. After 10 min, add 2-(2-iodoethoxy)propane (223 mg, 1.04 mmol), and allow the reaction to continue overnight. Dilute with aqueous saturated ammonium chloride, extract the mixture three times with diethyl ether, dry over anhydrous MgSO4, and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (12:1) to provide 3-tert-butoxycarbonyl-7-chloro-6-(2-isopropoxy-ethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a clear oil (127 mg, 63%). Use a method similar to the General Procedure 1-4 to give the title compound as a white solid. MS (ES+) m/z: 300 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 3-tert-butoxycarbonyl-7,9-dichloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.52 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2Cl)Cl)SC(N(C)C)=O | C18H24Cl2N2O3S
reactant | potassium hydroxide | 16.1 mmol, 0.9 g | [OH-].[K+]
reactant | 2-(2-iodoethoxy)propane | 1.04 mmol, 223 mg | ICCOC(C)C | C5H11IO
solvent | methanol | 5 mL | CO | CH4O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 3-tert-butoxycarbonyl-7-chloro-6-(2-isopropoxy-ethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 127 mg, 63% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCCOC(C)C | C20H30ClNO3S
